US08431563B2
A 250-mL round-bottomed flask was charged with N-phenyl-N-((2R)-2-piperazinylmethyl)methanesulfonamide (0.315 g, 1.17 mmol), triethylamine (0.49 mL, 3.5 mmol) and CH2Cl2 (10 mL). The mixture was cooled to 0° C. then Boc2O (0.273 g, 1.25 mmol) was added in potions. The reaction was stirred at 0° C. for 30 min and then the reaction mixture was partitioned between water (20 mL) and CH2Cl2 (10 mL). The aqueous phase was extracted with CH2Cl2 (2×20 mL). The combined organic extracts were washed with water (30 mL) and saturated aqueous NaCl (30 mL), dried over sodium sulfate, filtered and concentrated in vacuo to afford tert-butyl (3R)-3-(((methylsulfonyl)(phenyl)amino)methyl)-1-piperazinecarboxylate (0.427 g) as a white solid.

reactant | N-phenyl-N-((2R)-2-piperazinylmethyl)methanesulfonamide | 1.17 mmol, 0.315 g | C1(=CC=CC=C1)N(S(=O)(=O)C)C[C@@H]1NCCNC1 | C12H19N3O2S
reactant | triethylamine | 3.5 mmol, 0.49 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 1.25 mmol, 0.273 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (3R)-3-(((methylsulfonyl)(phenyl)amino)methyl)-1-piperazinecarboxylate | 0.427 g | CS(=O)(=O)N(C1=CC=CC=C1)C[C@H]1CN(CCN1)C(=O)OC(C)(C)C | C17H27N3O4S
